US07968542B2
5-(4-Isopropylpiperazine-1-carbonyl)thiophene-2-carboxylic acid {1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazide hydrochloride
28 mg of 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene (synthesized in accordance with WO2004/108683) and 29.7 mg of 5-(4-isopropylpiperazine-1-carbonyl)thiophene-2-carbohydrazide prepared in Reference Synthetic Example 1 in 2 mL of isopropyl alcohol were heated with 3 mg of p-tosylic acid monohydrate and 25 μL (1 eq) of 4 M hydrogen chloride/dioxane at 105° C. for 8 hours. The reaction solution was further heated with 2 mL of dimethylformamide at 105° C. for 5 hours and cooled to room temperature. The precipitated solid was recovered by filtration and washed with 1 mL of isopropyl alcohol and 1 mL of chloroform, and the resulting crystals were dried to give the desired product (yield 54%).

reactant | 2-(3,4-dichlorophenyl)-3-hydroxy-4-methylcarbonylthiophene | 28 mg | ClC=1C=C(C=CC1Cl)C=1SC=C(C1O)C(=O)C | C12H8Cl2O2S
reactant | 5-(4-isopropylpiperazine-1-carbonyl)thiophene-2-carbohydrazide | 29.7 mg | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(S1)C(=O)NN | C13H20N4O2S
reactant | hydrogen chloride dioxane | 4 M, 25 μL, 1 eq | Cl.O1CCOCC1
reactant | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | isopropyl alcohol | 2 mL | C(C)(C)O | C3H8O
product | 5-(4-Isopropylpiperazine-1-carbonyl)thiophene-2-carboxylic acid {1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidene}hydrazide hydrochloride | yield 54% | Cl.ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C=1SC(=CC1)C(=O)N1CCN(CC1)C(C)C)O | InChI=1S/C25H26Cl2N4O3S2.ClH/c1-14(2)30-8-10-31(11-9-30)25(34)21-7-6-20(36-21)24(33)29-28-15(3)17-13-35-23(22(17)32)16-4-5-18(26)19(27)12-16;/h4-7,12-14,32H,8-11H2,1-3H3,(H,29,33);1H
